US08895313B2
6-Methyl-2-phenylimidazo[1,2-a]pyridine
A stirred mixture of 2-amino-5-picoline (0.56 g, 5.22 mmol) and 2-bromoacetophenone (1.0 g, 5.02 mmol) in EtOH (50 ml) was heated under reflux for 2 h. The reaction mixture was left to cool to room temperature and then sodium bicarbonate (0.76 g, 9.04 mmol) was added and the reaction mixture was heated under reflux for 15 h. The solvent was then removed under reduced pressure and the residue was dissolved in EtOAc (70 ml) and washed with water (40 ml). The organic phase was dried (Na2SO4) and the solvent was removed under reduced pressure to give an orange solid. This solid was purified by flash chromatography (1:1 Hexane/EtOAc) to give the title compound (0.753 g, 70%) as a pale orange solid.

reactant | 2-amino-5-picoline | 5.22 mmol, 0.56 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | 2-bromoacetophenone | 5.02 mmol, 1.0 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | sodium bicarbonate | 9.04 mmol, 0.76 g | C([O-])(O)=O.[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | 6-Methyl-2-phenylimidazo[1,2-a]pyridine | 0.753 g, 70% | CC=1C=CC=2N(C1)C=C(N2)C2=CC=CC=C2 | C14H12N2
